US08097641B2
(2S)-5-(1,3,5Trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-ylamine dihydrochloride
HCl (0.42 mL, 4 M solution in dioxane, 1.688 mmol) was dropwise added to a suspension of (2S)-5-(1,3,5-Trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydronaphthalen-2-amine (0.143 g, 0.563 mmol) in Et2O (5 mL). The reaction mixture was stirred at room temperature for 3 h and then the solvent was concentrated off. The resulting solid was suspended in Et2O (10 mL) and concentrated, in order to remove excess of HCl. This operation was repeated for three times, to give 0.150 g of the title product (Rf=0.2 (AcOEt/MeOH/Et3N 20:3:2), white solid, 91% yield).

reactant | HCl | 1.688 mmol, 4 M, 0.42 mL | Cl | ClH
reactant | (2S)-5-(1,3,5-Trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydronaphthalen-2-amine | 0.563 mmol, 0.143 g | CN1N=C(C(=C1C)C1=C2CC[C@@H](CC2=CC=C1)N)C | C16H21N3
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | (2S)-5-(1,3,5Trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-ylamine dihydrochloride | 0.150 g, 91% yield | Cl.Cl.CN1N=C(C(=C1C)C1=C2CC[C@@H](CC2=CC=C1)N)C | InChI=1S/C16H21N3.2ClH/c1-10-16(11(2)19(3)18-10)15-6-4-5-12-9-13(17)7-8-14(12)15;;/h4-6,13H,7-9,17H2,1-3H3;2*1H/t13-;;/m0../s1
